US07211577B2
Preparation of 4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-6-(3-fluoro-4-methoxyphenyl)-2-isobutyl-2H-pyridazin-3-one
Following the procedure of Example 1(10), 6-(3-fluoro-4-methoxyphenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one and tert-butyl 1-piperazinecarboxylate were reacted to yield the title compound as a yellow oil (yield: 94.3%).

reactant | 6-(3-fluoro-4-methoxyphenyl)-2-isobutyl-4-methanesulfonyloxymethyl-2H-pyridazin-3-one | FC=1C=C(C=CC1OC)C=1C=C(C(N(N1)CC(C)C)=O)COS(=O)(=O)C | C17H21FN2O5S
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | 4-(4-tert-butoxycarbonyl-1-piperazinyl)methyl-6-(3-fluoro-4-methoxyphenyl)-2-isobutyl-2H-pyridazin-3-one | yield: 94.3% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1C(N(N=C(C1)C1=CC(=C(C=C1)OC)F)CC(C)C)=O | C25H35FN4O4
